US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine (Compound 80)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(2-cyanophenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 94%). 1H NMR (200 MHz, CDCl3): δ 3.30 (s, 4H), 3.88-3.90 (m, 6H), 4.07-4.20 (m, 4H), 6.94-7.07 (m, 3H), 7.27-7.34 (m, 2H), 7.53-7.63 (m, 3H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(2-cyanophenyl)piperazine | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine | 94% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N)OC | C22H22N6O3
